US07906645B2
1-[((3R)-{3-[4-(methylsulfonyl)phenyl]propyl}piperidin-3-yl)methyl]piperazine
Benzyl 4-[((3R)-1-{3-[4-(methylsulfonyl)phenyl]propyl}piperidin-3-yl)methyl]piperazine-1-carboxylate (5.00 g, 9.70 mmol) was dissolved in methanol (30 ml) in a three-necked flask. The air was removed under reduced pressure and replaced with argon before the addition of 10% Pd/C (1.00 g). A balloon of hydrogen was then added and the reaction stirred at room temperature for 18 h. The hydrogen was evacuated and replaced with argon. The catalyst was then filtered using a nylon whatman autocup and the solvent removed under reduced pressure to afford the desired product as a yellow gum (3.50 g, 95% crude yield).

reactant | Benzyl 4-[((3R)-1-{3-[4-(methylsulfonyl)phenyl]propyl}piperidin-3-yl)methyl]piperazine-1-carboxylate | 9.70 mmol, 5.00 g | CS(=O)(=O)C1=CC=C(C=C1)CCCN1C[C@@H](CCC1)CN1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C28H39N3O4S
solvent | methanol | 30 ml | CO | CH4O
product | 1-[((3R)-{3-[4-(methylsulfonyl)phenyl]propyl}piperidin-3-yl)methyl]piperazine | 3.50 g | CS(=O)(=O)C1=CC=C(C=C1)CCCN1C[C@@H](CCC1)CN1CCNCC1 | C20H33N3O2S
